US09212165B2
Step 5: tert-Butyl 3-(pyrazin-2-ylethynyl)-1-adamantylcarbamate
To a stirred solution of tert-butyl 3-ethynyl-1-adamantylcarbamate (120 mg, 0.44 mmol) and 2-chloropyrazine (120 mg, 1.05 mmol) in TEA (3 mL) and acetonitrile (15 mL) was added Pd(PPh3)4 (5 mg, 0.04 mmol), followed by an addition of Cut (5 mg, 0.026 mmol) under N2 atmosphere. After stirring at 70° C. for three hours, the reaction was cooled to room temperature, diluted with ethyl acetate (50 mL), washed with water (50 mL) and brine, dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=5/1) to give 108 mg (70%) of the title compound, tert-butyl 3-(pyrazin-2-ylethynyl)-1-adamantylcarbamate as a white solid. ESI-MS m/z: 298 (M-55)+.

reactant | tert-butyl 3-ethynyl-1-adamantylcarbamate | 0.44 mmol, 120 mg | C(#C)C12CC3(CC(CC(C1)C3)C2)NC(OC(C)(C)C)=O | C17H25NO2
reactant | 2-chloropyrazine | 1.05 mmol, 120 mg | ClC1=NC=CN=C1 | C4H3ClN2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.04 mmol, 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 3-(pyrazin-2-ylethynyl)-1-adamantylcarbamate | 108 mg, 70% | N1=C(C=NC=C1)C#CC12CC3(CC(CC(C1)C3)C2)NC(OC(C)(C)C)=O | C21H27N3O2
